US05364943
Cis-3-(2-Methoxybenzylamino)-2-phenylpiperidine
3-(2-Methoxybenzylamino) -2-phenylpyridine (25 mg) was dissolved in 3 mL of acetic acid. To this solution was added 3 mg of platinum oxide and the mixture was placed on a Parr apparatus (35-40 p.s.i. H2) for ca. 2.5 hours. During this period, three additional 2.5 mg portions of catalyst were added to the system. The mixture was filtered through Celite® which had been rinsed well with ethanol and the filtrate was concentrated with a rotary evaporator. The residue was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate, the layers were separated and the aqueous phase was extracted with three portions of CH2Cl2. The combined organic fractions were dried (Na2SO4) and concentrated to afford 15 mg of the title compound contaminated with a trace of 3-(2-methoxy-benzylamino)-2-phenylpyridine and a trace of material in which the 2-phenyl substituent had been reduced to a cyclohexyl moiety. The material prepared in this manner has spectral properties identical to those of the free base of the title compound of Example 1C.

reactant | 3-(2-Methoxybenzylamino) -2-phenylpyridine | 25 mg | COC1=C(CNC=2C(=NC=CC2)C2=CC=CC=C2)C=CC=C1 | C19H18N2O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 3 mg | [Pt]=O
product | Cis-3-(2-Methoxybenzylamino)-2-phenylpiperidine | 15 mg | COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=CC=C1 | C19H24N2O
